US05294618
Following the procedure of Example 1, step 3, 2.05 g (14.0 mmol) of 1-methyl-3,4-dihydronaphthalene in 14 ml of acetic acid was reacted with 4.54 ml of 37% formaldehyde solution and 6.03 g of 1-adamantanamine hydrochloride. Work up gave 5.58 g of crude 3-(1-adamantyl)-1,2,3,4,5,6-hexahydrobenz[f]isoquinoline. Following the procedure of Example 2, this was reacted with 1.02 g of lithium wire in 400 ml of liquid ammonia, 100 ml of anhydrous THF and 2 ml of aniline. Chromatography on flash silica, eluting with 5-20% methanol/dichloromethane, then on alumina, eluting with 2-7% ethyl acetate/petroleum ether, afforded 0.54 g (12%) of the title product as a white solid. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent and recrystallisation from methanol/petroleum ether, the title product hydrochloride was obtained as a white solid, m.p. 252°-255° C. NMR δ(D2O, CD3CN) 1.56 (1H, m), 1.68-1.92 (9H, m), 2.02-2.04 (6H, m), 2.27 (3H, s), 2.61 (1H, m), 2.74 (1H, d of d), 2.82 (1H, t, J=12.0 Hz), 2.92-2.95 (2H, m), 3.08 (1H, t of d), 3.65 (1H, m), 3.82 (1H, m), 7.19-7.23 (3H, m), 7.29-7.30 (1H, m). m/z (CI+, NH3) 322 (M+H)+, 195. Analysis calcd. for C23H32ClN: C, 77.17; H, 9.01; N, 3.91%. Found: C, 77.09; H, 8.95; N, 3.89%.

reactant | 1-methyl-3,4-dihydronaphthalene | 14.0 mmol, 2.05 g | CC1=CCCC2=CC=CC=C12 | C11H12
reactant | formaldehyde | 4.54 ml | C=O | CH2O
reactant | 1-adamantanamine hydrochloride | 6.03 g | Cl.C12(CC3CC(CC(C1)C3)C2)N
reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
product | 3-(1-adamantyl)-1,2,3,4,5,6-hexahydrobenz[f]isoquinoline | 5.58 g | C12(CC3CC(CC(C1)C3)C2)N2CC=3CCC1=C(C3CC2)C=CC=C1 | C23H29N
